US07968563B2
N4-(2-Methylpropyl)quinoline-3,4-diamine (U.S. Pat. No. 5,389,640 Example 1, 41 g, 0.190 mol), dichloromethane (550 mL), triethylamine (40 mL, 0.286 mol), and chloroacetyl chloride (16.7 mL, 0.210 mol) were combined and then stirred at ambient temperature over the weekend. The reaction mixture was diluted with 1,2-dichloroethane (75 mL) and then washed with saturated aqueous sodium bicarbonate (3×400 mL). The organic layer was dried over magnesium sulfate, filtered through a layer of CELITE filter aid, and then concentrated under reduced pressure to provide 52.81 g of 2-chloromethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline as a brown solid.

reactant | N4-(2-Methylpropyl)quinoline-3,4-diamine | CC(CNC1=C(C=NC2=CC=CC=C12)N)C | C13H17N3
reactant | dichloromethane | 550 mL | ClCCl | CH2Cl2
reactant | triethylamine | 0.286 mol, 40 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.210 mol, 16.7 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | 1,2-dichloroethane | 75 mL | ClCCCl | C2H4Cl2
product | 2-chloromethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 52.81 g | ClCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)C | C15H16ClN3
